US05347033
A process as claimed in claim 1, wherein at least 5 mol of water are employed per mole of adiponitrile and a yield of at least 10% of 5-cyanovaleramide is obtained.

reactant | water | at least 5 mol | O | H2O
reactant | adiponitrile | C(CCCCC#N)#N | C6H8N2
product | 5-cyanovaleramide | yield of at least 10% | C(#N)CCCCC(=O)N | C6H10N2O
